US05223539
N-cyclohexyl-4-[hydroxy(3,4-methylenedioxyphenyl) methyl]-N-(1-methylethyl)benzamide
To a stirred solution of 4-bromo-1,2-(methylenedioxy)benzene (1.00 g, 6.0 mmol) in ethyl ether (30 mL) at 0° under an argon atmosphere is added n-BuLi (3.75 mL of 1.6 M solution in hexane). Tetrahydrofuran (10 mL) is added. The reaction mixture is cooled to -20° C. and a solution of terephthalaldehydic acid N-isopropyl-N-cyclohexyl amide (0.82 g, 3.0 mmol) in THF: ethyl ether (4:3, 35 mL) is added rapidly. The reaction is followed by thin layer chromatography until complete. The reaction is quenched at -15° C. by adding water (50 mL) and 1N HCl(20 mL). The reaction is further diluted with water (300 mL) and extracted three times with EtOAc (50 mL portions). The combined extracts are washed twice with saturated NaCl solution and dried (MgSO4). The drying agent is filtered and the filtrate concentrated in vacuo to give the crude product. The crude product is chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound.

reactant | 4-bromo-1,2-(methylenedioxy)benzene | 6.0 mmol, 1.00 g | BrC1=CC2=C(C=C1)OCO2 | C7H5BrO2
reactant | n-BuLi | 1.6 M, 3.75 mL | [Li]CCCC
reactant | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | terephthalaldehydic acid N-isopropyl-N-cyclohexyl amide | 3.0 mmol, 0.82 g | C(C)(C)N(C(C1=CC=C(C=O)C=C1)=O)C1CCCCC1 | C17H23NO2
solvent | ethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | THF ethyl ether | 35 mL | C1CCOC1.C(C)OCC
product | N-cyclohexyl-4-[hydroxy(3,4-methylenedioxyphenyl) methyl]-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)C(C1=CC2=C(C=C1)OCO2)O)=O)C(C)C | C24H29NO4
